US06953806B2
A solution of 14.36 g (82.5 mmol) of diethyl-azo-dicarboxylate in 50 ml of tetrahydrofuran was added within 30 minutes to a solution of 11.4 g (75.0 mmol) 4-hydroxy-benzoic acid methyl ester, 20.65 g (78.8 mmol) of triphenylphosphin and 13.5 g (75.0 mmol) of 4-benzyloxy-1-butanol dissolved in 100 ml of tetrahydrofuran. The reaction mixture was then stirred for 1 hour at room temperature, 1 g of triphenylphosphin was added and stirring continued for 1 hour at room temperature and for 30 minutes at reflux. The reaction mixture was then diluted with 200 ml of hexane and filtered. The filtrate was poured into 200 ml of a saturated potassium carbonate solution and extracted 3 times with 200 ml of ethylacetate. The combined ethylacetate phases were washed with brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue formed was chromatographed on silica gel with a 98:2 v/v mixture of dichloromethane and ether as the eluent giving 21.8 g (92.4%) 4-(4-benzyloxy-butoxy)-benzoic acid methyl ester as colorless viscous oil, MS: 314 (M+).

reactant | diethyl-azo-dicarboxylate | 82.5 mmol, 14.36 g | C(C)OC(=O)N=NC(=O)OCC | C6H10N2O4
reactant | 4-hydroxy-benzoic acid methyl ester | 75.0 mmol, 11.4 g | COC(C1=CC=C(C=C1)O)=O | C8H8O3
reactant | triphenylphosphin | 78.8 mmol, 20.65 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-benzyloxy-1-butanol | 75.0 mmol, 13.5 g | C(C1=CC=CC=C1)OCCCCO | C11H16O2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | hexane | 200 ml | CCCCCC | C6H14
catalyst | triphenylphosphin | 1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 4-(4-benzyloxy-butoxy)-benzoic acid methyl ester | 21.8 g, 92.4% | COC(C1=CC=C(C=C1)OCCCCOCC1=CC=CC=C1)=O | C19H22O4
